* Z:\mnt\design.r\spice\examples\1707.asc
V1 IN 0 5
C1 N004 0 47p
C2 OUT 0 100µ Rser=.05
L1 N001 OUT 15µ
R1 OUT N003 249K
R2 N003 0 80.6K
XU1 N004 IN N003 0 N001 IN IN N002 LTC1707
Rload OUT 0 10
.tran 1m startup
.lib LTC1707.sub
.backanno
.end
